US07790747B2
Using general procedure A, [3-(4-oxo-piperidin-1-yl)-butyl]-carbamic acid tert-butyl ester (0.361 g, 1.34 mmol), 6-aminomethyl-pyridine-2-carbonitrile (0.178 g, 1.34 mmol), sodium triacetoxyborohydride (0.425 g, 2.01 mmol) and acetic acid (0.2 ml, cat.) in CH2Cl2 (15 ml) at rt for 16 h gave the crude product as a pale yellow oil. Purification by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH, 86:12:2, v/v/v) afforded (3-{4-[(6-cyano-pyridin-2-ylmethyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester (0.400 g, 77%) as a colorless oil. 1H NMR (CDCl3) δ 0.93 (d, 3H, J=6.0 Hz), 1.40 (s+m, 13H), 1.65 (m, 1H), 1.92 (m, 2H), 2.13 (br t, 1H, J=9.0 Hz), 2.45 (m, 2H), 2.69-2.81 (m, 3H), 3.07 (m, 1H), 3.30 (m, 1H), 3.97 (s, 2H), 5.95 (br s, 1H), 7.56 (d, 1H, J=9.0 Hz), 7.59 (d, 1H, J=9.0 Hz), 7.77 (t, 1H, J=7.5 Hz).

reactant | [3-(4-oxo-piperidin-1-yl)-butyl]-carbamic acid tert-butyl ester | 1.34 mmol, 0.361 g | C(C)(C)(C)OC(NCCC(C)N1CCC(CC1)=O)=O | C14H26N2O3
reactant | 6-aminomethyl-pyridine-2-carbonitrile | 1.34 mmol, 0.178 g | NCC1=CC=CC(=N1)C#N | C7H7N3
reactant | sodium triacetoxyborohydride | 2.01 mmol, 0.425 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | (3-{4-[(6-cyano-pyridin-2-ylmethyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 0.400 g, 77% | C(C)(C)(C)OC(NCCC(C)N1CCC(CC1)NCC1=NC(=CC=C1)C#N)=O | C21H33N5O2
